US04058559
Preparation of 4-(4-Hydroxybenzoyl)-2,3-Dichlorophenoxy Acetic Acid
A mixture of 4-(4-methoxybenzoyl)-2,3-dichlorophenoxy acetic acid (3.55 g., 0.01 mole) and hydriodic acid (7.5 ml.) was refluxed at 180°-190° C. for 4 hours. The reaction mixture was concentrated and the solid residue was stirred with water for one hour and filtered. The solid obtained was dissolved in ether and dried (MgSO4). The solvent was removed in vacuo and the residue was recrystallized from ether - pet. ether mixture to give 2 g. (60%) of the product; m.p. 218°-219° C.

reactant | 4-(4-methoxybenzoyl)-2,3-dichlorophenoxy acetic acid | 0.01 mole, 3.55 g | COC1=CC=C(C(=O)C2=C(C(=C(OCC(=O)O)C=C2)Cl)Cl)C=C1 | C16H12Cl2O5
reactant | hydriodic acid | 7.5 ml | I | HI
solvent | ether | CCOCC | C4H10O
product | 4-(4-Hydroxybenzoyl)-2,3-Dichlorophenoxy Acetic Acid | OC1=CC=C(C(=O)C2=C(C(=C(OCC(=O)O)C=C2)Cl)Cl)C=C1 | C15H10Cl2O5
